US05753673
The thus obtained 2-isopropylaminobenzaldehyde was dissolved in toluene and 4N hydrochloric acid ethyl acetate solution was added thereto under ice cooling. Thus, 42.6 g of 2-isopropylaminobenzaldehyde hydrochloride was obtained.

reactant | 2-isopropylaminobenzaldehyde | C(C)(C)NC1=C(C=O)C=CC=C1 | C10H13NO
reactant | hydrochloric acid ethyl acetate | 4N | C(C)OC(C)=O.Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-isopropylaminobenzaldehyde hydrochloride | 42.6 g | Cl.C(C)(C)NC1=C(C=O)C=CC=C1 | InChI=1S/C10H13NO.ClH/c1-8(2)11-10-6-4-3-5-9(10)7-12;/h3-8,11H,1-2H3;1H
